US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-methoxyiminoacetyl]amino-3-(1-trityl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (570 mg: 0.55 mMol.) in a mixture of anisole (1.7 ml) and nitromethane (5 ml) at -30° C. is added e solution of aluminum chloride (0.51 g: 3.83 mMol.) in anisole (1.8 ml), and the mixture is stirred for 30 minutes. The reaction mixture is mixed with 1N-hydrochloric acid (4 ml) and ethyl acetate (10 ml), stirred at room temperature for 5 minutes, poured into a solution of sodium hydrogen carbonate (3.2 g) in water (100 ml), and stirred for several minutes. After filtering off the insoluble material, the reaction mixture is washed with ethyl acetate, concentrated in vacuum to remove the organic solvents. The resulting aqueous layer is purified by stylene-divinylbenzene copolymer chromatography (water: methanol=10:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl]amino-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid sodium salt as white foam (194 mg). Yield: 64%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-methoxyiminoacetyl]amino-3-(1-trityl-1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.55 mMol, 570 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC=2N=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C53H48N8O6S4
reactant | aluminum chloride | 3.83 mMol, 0.51 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 3.2 g | C(O)([O-])=O.[Na+]
solvent | anisole | 1.7 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 1.8 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl]amino-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid sodium salt | 194 mg, Yield: 64% | [Na+].NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2N=NNC2)C(=S)[O-])C1=O)=N/OC | InChI=1S/C16H16N8O4S4.Na/c1-28-22-9(7-5-32-16(17)19-7)12(25)20-10-13(26)24-11(15(27)29)6(4-31-14(10)24)3-30-8-2-18-23-21-8;/h2,5,10,14H,3-4H2,1H3,(H2,17,19)(H,20,25)(H,27,29)(H,18,21,23);/q;+1/p-1/b22-9-;/t10-,14-;/m1./s1
